US07332508B2
1-(1-Ethylpropyl)-4-{[5-(4-trifluoromethoxyphenyl)[1,2,4]oxadiazol-3-yl]-methyl}piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 12, starting from 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine and 4-trifluoromethoxybenzoyl chloride.

reactant | 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine | C(C)C(CC)N1CCC(CC1)CC(=N)NO | C12H25N3O
reactant | 4-trifluoromethoxybenzoyl chloride | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
product | 1-(1-Ethylpropyl)-4-{[5-(4-trifluoromethoxyphenyl)[1,2,4]oxadiazol-3-yl]-methyl}piperidine, Hydrochloride | Cl.C(C)C(CC)N1CCC(CC1)CC1=NOC(=N1)C1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C20H26F3N3O2.ClH/c1-3-16(4-2)26-11-9-14(10-12-26)13-18-24-19(28-25-18)15-5-7-17(8-6-15)27-20(21,22)23;/h5-8,14,16H,3-4,9-13H2,1-2H3;1H
